US05843967
N-Boc-2-amino-6-bromo-1,8-naphthyridine
200 mg (0.893 mmol) of 2-amino-6-bromo-1,8-naphthyridine (C. Reichardt; W. Scheibelein, Tetrahedron Lett. 1977, 2087) are dissolved in 3 ml of absolute DMF under argon and the solution is added to a suspension, cooled to 0° C. of 28.2 mg of 80% pure NaH (0.937 mmol) in 2 ml of absolute DMF without the temperature exceeding +5° C. After stirring for 10 minutes, 0.21 g (0.937 mmol) of (Boc)2O is added and the mixture is allowed to come to room temperature overnight. Water is added and the mixture is extracted 3 times with 30 ml of ethyl acetate each time. The organic phase is washed once with 30 ml of water, dried over MgSO4 and evaporated. Column chromatography over silica gel with CH2Cl2 :CH3OH=100:2 gives 114 mg (39% of theory) of the title compound as a yellow solid.

reactant | 2-amino-6-bromo-1,8-naphthyridine | 0.893 mmol, 200 mg | NC1=NC2=NC=C(C=C2C=C1)Br | C8H6BrN3
reactant | NaH | 0.937 mmol, 28.2 mg | [H-].[Na+]
reactant | (Boc)2O | 0.937 mmol, 0.21 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-Boc-2-amino-6-bromo-1,8-naphthyridine | C(=O)(OC(C)(C)C)N1C(C=CC2=CC(=CN=C12)Br)N | C13H16BrN3O2
